US06518423B1
8-[1-(Pyridin-3-yl)ethyl]-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine
0.23 g of 8-[1-(pyridin-3-yl)vinyl]-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine was dissolved in 10 ml of ethanol and then hydrogenated in the presence of 0.056 g of 10% palladium-carbon (moisture content: 50%) in a hydrogen gas stream at room temperature for 26 hours. Thus 0.106 g of the title compound was obtained as yellow crystals.

reactant | 8-[1-(pyridin-3-yl)vinyl]-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 0.23 g | N1=CC(=CC=C1)C(=C)C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C19H16N4OS
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.056 g | [C].[Pd]
product | 8-[1-(Pyridin-3-yl)ethyl]-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 0.106 g | N1=CC(=CC=C1)C(C)C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C19H18N4OS
